US07314936B2
To solution of methyltriphenylphosphonium bromide (17 g, 1.5 eq.) in THF (100 mL) at 0° C. was added dropwise n-butyllithium (2.5 M in hexanes, 18 mL, 1.4 eq.) and the resulting mixture was stirred for 1 h. A solution of 1,4-dioxa-spiro[4.5]decan-8-one (5.0 g, 32 mmol, 1.0 eq.) in THF (10 mL) was then introduced dropwise and the resulting mixture was warmed to room temperature and stirred overnight. The reaction was quenched by addition of sat. NaHCO3 and the separated aqueous layer was extracted with 4×EtOAc. The combined organic phase was dried over Na2SO4, filtered and concentrated. The residue was purified by chromatography (5% to 10% EtOAc/hexanes) to give 8-methyene-1,4-dioxa-spiro[4.5]decane (3.92 g, 79%).

reactant | n-butyllithium | 2.5 M, 18 mL, 1.4 eq. | C(CCC)[Li]
reactant | 1,4-dioxa-spiro[4.5]decan-8-one | 32 mmol, 5.0 g, 1.0 eq. | O1CCOC12CCC(CC2)=O | C8H12O3
catalyst | methyltriphenylphosphonium bromide | 17 g, 1.5 eq. | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 8-methyene-1,4-dioxa-spiro[4.5]decane | 3.92 g, 79% | C=C1CCC2(OCCO2)CC1 | C9H14O2
